US08492387B2
3-(4-bromophenyl)-2-(4-methoxyphenyl)propanoic acid (3.0 g, 8.95 mmol), Weinreb amine (1.05 g, 10.7 mmol) were dissolved in DMF (90 ml) and diisopropylethylamine (1.88 ml, 10.7 mmol) was added in one portion. EDC (2.06 g, 10.7 mmol) and HOAt (0.122 g, 0.895 mmol) were added to the resulting solution portionwise. The resulting solution was allowed to stir at 25° C. for 1 hour. After one hour the reaction was diluted with EtOAc, washed with 10% KHSO4, saturated NaHCO3, and LiCl (×3). The organic layer was dried over sodium sulfate and concentrated in vacuo, which afforded 3.2 g of 3-(4-bromophenyl)-N-methoxy-2-(4-methoxyphenyl)-N-methylpropanamide as a colorless oil. 3-(4-bromophenyl)-N-methoxy-2-(4-methoxyphenyl)-N-methylpropanamide (1.0 g, 2.64 mmol) was dissolved in anhydrous THF (26.4 ml) and the resulting solution was cooled to 0° C. MeMgBr (1.32 ml, 3.97 mmol) was added dropwise to the cooled solution, and the resulting solution was allowed to stir for 30 min. at 0° C. The solution was then warmed to 25° C. for one hour, at which point the solution was filtered over a pad of celite and concentrated in vacuo. The resulting crude oil was purified using silica gel chromatography (0-40% EtOAc in hexanes gradient to afford 627 mg of 4-(4-bromophenyl)-3-(4-methoxyphenyl)butan-2-one as a pale yellow oil.

reactant | 3-(4-bromophenyl)-N-methoxy-2-(4-methoxyphenyl)-N-methylpropanamide | 2.64 mmol, 1.0 g | BrC1=CC=C(C=C1)CC(C(=O)N(C)OC)C1=CC=C(C=C1)OC | C18H20BrNO3
reactant | MeMgBr | 3.97 mmol, 1.32 ml | C[Mg+].[Br-]
solvent | THF | 26.4 ml | C1CCOC1 | C4H8O
product | 4-(4-bromophenyl)-3-(4-methoxyphenyl)butan-2-one | 627 mg | BrC1=CC=C(C=C1)CC(C(C)=O)C1=CC=C(C=C1)OC | C17H17BrO2
